US04363909
A catalyst consisting of palladium-on-carbon (3/97 by weight; 5 g) is added to a solution of 5-bromo-3-methyl-8-nitroisoquinoline (10.8 g) in ethanol (200 cc). The suspension is stirred, whilst heating to the reflux temperature under a nitrogen atmosphere, and hydrazine hydrate (25 cc) is added dropwise in the course of 30 minutes. The mixture is then heated under reflux for a further 2 hours. The suspension is filtered hot through diatomaceous silica and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The residue is dissolved in 0.5 N aqueous hydrochloric acid (200 cc) and the resulting solution is extracted with methylene chloride (2×50 cc). The aqueous phase is then rendered alkaline to pH 10 by addition of sodium hydroxide and is extracted with methylene chloride (3×150 cc). The organic extracts are combined, washed with water, dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. to yield 8-amino-3-methylisoquinoline (4.4 g), which is a beige solid, m.p.=175° C.

reactant | 5-bromo-3-methyl-8-nitroisoquinoline | 10.8 g | BrC1=C2C=C(N=CC2=C(C=C1)[N+](=O)[O-])C | C10H7BrN2O2
reactant | hydrazine hydrate | 25 cc | O.NN
solvent | ethanol | 200 cc | C(C)O | C2H6O
catalyst | palladium-on-carbon | 5 g | [Pd] | Pd
product | 8-amino-3-methylisoquinoline | 4.4 g | NC=1C=CC=C2C=C(N=CC12)C | C10H10N2
